US04213990
1 mol (374 g) of α,α-bis-(2,4-dichlorophenyl)-β,β,β-trifluoroethane (obtained by condensation of m-dichlorobenzene with fluoral in the presence of concentrated sulfuric acid) is dissolved in 800 ml of "glyme". There is then added with stirring 80 g of 1,2,4-triazole, and at 80°-85° there is subsequently added dropwise 250 ml of 60% KOH. The reaction mixture is refluxed for about a further 3 hours. After cooling, the aqueous phase is separated and discarded. The organic phase is concentrated by evaporation, and the residue is subjected to molecular distillation under high vacuum. The substance distills over at 180° and 0.1 Torr as colourless oil, which solidifes on cooling to form a solid resin. The yield is about 76%. The compound can be crystallised from a mixture of cyclohexane and methanol: m.p. 84°-86°.

reactant | m-dichlorobenzene | ClC1=CC(=CC=C1)Cl | C6H4Cl2
reactant | fluoral | C(=O)C(F)(F)F | C2HF3O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | α,α-bis-(2,4-dichlorophenyl)-β,β,β-trifluoroethane | 1 mol, 374 g, yield is about 76% | ClC1=C(C=CC(=C1)Cl)C(C(F)(F)F)C1=C(C=C(C=C1)Cl)Cl | C14H7Cl4F3
